US07687503B2
5.4. 2-(methylamino)-2-oxoethyl 4-(5-amino-2-pyridyl)-1-piperazinecarboxylate
0.24 g of 10% palladium on charcoal is added to a suspension of 0.64 g (1.98 mmol) of 2-(methylamino)-2-oxoethyl 4-(5-nitro-2-pyridyl)-1-piperazinecarboxylate, prepared in step 5.3., in 90 ml of ethyl acetate. Stirring is continued at room temperature under a hydrogen atmosphere of 60 psi for 14 hours. After filtering off the catalyst, the filtrate is concentrated under reduced pressure and the residue thus obtained is purified by chromatography on silica gel, eluting with a 98/2 mixture of dichloromethane and methanol. 0.47 g of product is obtained in the form of a violet-colored oil, and is used without further purification in the following step.

reactant | 2-(methylamino)-2-oxoethyl 4-(5-nitro-2-pyridyl)-1-piperazinecarboxylate | 1.98 mmol, 0.64 g | [N+](=O)([O-])C=1C=CC(=NC1)N1CCN(CC1)C(=O)OCC(=O)NC | C13H17N5O5
catalyst | palladium on charcoal | 0.24 g | [Pd] | Pd
solvent | ethyl acetate | 90 ml | C(C)(=O)OCC | C4H8O2
product | 2-(methylamino)-2-oxoethyl 4-(5-amino-2-pyridyl)-1-piperazinecarboxylate | 0.47 g | NC=1C=CC(=NC1)N1CCN(CC1)C(=O)OCC(=O)NC | C13H19N5O3
